US04031099
a. 4-Hydroxy-1-n-propyl-5,6,7,8-tetrahydrocarbostyril
Cyclisation of a 60:40 mixture of the ethyl and methyl esters of 2-(N-n-propyl-acetamido) cyclohex-1-ene-1-carboxylic acid (34.82 g; 0.141 mole) as described in Example 8 afforded the title product as a white crystalline solid, m.p. (EtOH) 277° -278° C

reactant | 2-(N-n-propyl-acetamido) cyclohex-1-ene-1-carboxylic acid | 0.141 mole, 34.82 g | C(CC)N(C(C)=O)C1=C(CCCC1)C(=O)O | C12H19NO3
solvent | EtOH | CCO | C2H6O
product | 4-Hydroxy-1-n-propyl-5,6,7,8-tetrahydrocarbostyril | OC1=CC(N(C=2CCCCC12)CCC)=O | C12H17NO2
